US06911453B2
(4-Methanesulfonyl-benzyl)-methyl-amine was synthesized starting from 1-bromomethyl-4-methanesulfonylbenzene and methylamine in a manner known to the skilled worker.

reactant | 1-bromomethyl-4-methanesulfonylbenzene | BrCC1=CC=C(C=C1)S(=O)(=O)C | C8H9BrO2S
reactant | methylamine | CN | CH5N
product | (4-Methanesulfonyl-benzyl)-methyl-amine | CS(=O)(=O)C1=CC=C(CNC)C=C1 | C9H13NO2S
